US09284331B2
Step 1: 9-(prop-1-en-2-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione.
118-1. A mixture of 9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (750 mg, 2.12 mmol), 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane (712 mg, 4.24 mmol) Cs2CO3 (1.72 g, 5.29 mmol) and Pd(PPh3)4 (122 mg, 0.11 mmol) in dioxane/H2O (9:1, 20 mL) was heated to 100° C. for 2 h in a microwave reactor. The mixture was then concentrated in vacuo and the residue purified by flash chromatography (SiO2, heptane to AcOEt to AcOEt/MeOH 85:15) to give the title compound (550 mg). UPLC-MS: MS 269.2 (M+H+); UPLC rt 0.83 min.

reactant | 9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 2.12 mmol, 750 mg | IC1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C13H11IN2O2
reactant | 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane | 4.24 mmol, 712 mg | CC1(OB(OC1(C)C)C(=C)C)C | C9H17BO2
solvent | dioxane H2O | 20 mL | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 0.11 mmol, 122 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 9-(prop-1-en-2-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 550 mg | C=C(C)C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C16H16N2O2
